US09216173B2
To a solution of trimethyl[(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)ethynyl]silane (240 g, 1.07 mol) in 1,2-dimethoxyethane (8000 mL) was added (1Z)—N-hydroxyethanimidoyl chloride (120 g, 1.28 mol) and potassium hydrogen carbonate (214.4 g, 2.141 mol). The reaction mixture was heated to 50° C. After 16 hours, the reaction mixture was filtered and concentrated under reduced pressure. The residue was purified via chromatography on silica gel (10% ethyl acetate/hexanes, linear gradient) to afford 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trimethylsilyl)isoxazole. MS ESI calc'd. for C13H24BNO3Si [M]+ 281. found 281. 1H NMR (400 MHz, CDCl3) δ 2.39 (s, 3H), 1.31 (s, 12H), 0.37 (s, 9H).

reactant | trimethyl[(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)ethynyl]silane | 1.07 mol, 240 g | C[Si](C#CB1OC(C(O1)(C)C)(C)C)(C)C | C11H21BO2Si
reactant | (1Z)—N-hydroxyethanimidoyl chloride | 1.28 mol, 120 g | O\N=C(\C)/Cl | C2H4ClNO
reactant | potassium hydrogen carbonate | 2.141 mol, 214.4 g | C(O)([O-])=O.[K+]
solvent | 1,2-dimethoxyethane | 8000 mL | COCCOC | C4H10O2
product | 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trimethylsilyl)isoxazole | CC1=NOC(=C1B1OC(C(O1)(C)C)(C)C)[Si](C)(C)C | C13H24BNO3Si
